US08859773B2
Step 1: 6-bromo-N-methylisoquinolin-3-amine
To a solution of 6-bromoisoquinolin-3-amine (50.0 mg, 2.6 mmol) in N,N-dimethylformamide (10 mL) was added N,N-dimethylformamide dimethylacetal (2 mL). The reaction vessel was sealed and heated in a Biotage Smith Synthesizer microwave to 110° C. for 20 minutes. Sodium triacetoxyborohydride (59 mg, 0.28 mmol) was then added to the reaction mixture. The vial was resealed and heated again to 110° C. on a Biotage Smith Synthesizer microwave for 10 minutes. The reaction was concentrated. The residue was dissolved in ethyl acetate (50 mL) and washed with brine (2×20 mL). The organics were dried over sodium sulfate, filtered, and concentrated. Purification by flash column chromatography gave the title compound (23 mg, 43%) as a white solid. 1H NMR (400 MHz, CDCl3, δ): 8.76 (s, 1H), 7.74 (s, 1H), 7.61 (d, 1H), 7.28 (d, 1H), 6.40 (s, 1H), 5.09-5.07 (m, 1H), 2.97 (s, 3H).

reactant | 6-bromoisoquinolin-3-amine | 2.6 mmol, 50.0 mg | BrC=1C=C2C=C(N=CC2=CC1)N | C9H7BrN2
reactant | N,N-dimethylformamide dimethylacetal | 2 mL | COC(N(C)C)OC | C5H13NO2
reactant | Sodium triacetoxyborohydride | 0.28 mmol, 59 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 6-bromo-N-methylisoquinolin-3-amine | 23 mg, 43% | BrC=1C=C2C=C(N=CC2=CC1)NC | C10H9BrN2
